US08049006B2
1-{4-[(4-methoxybenzyl)sulfanyl]phenyl}-1-propanone (Compound S188)
To (4-methoxyphenyl)methane thiol (20 g) in N,N-dimethylformamide (200 ml) solution, sodium hydride (60% mineral oil dispersion) was added under ice cooling and the mixture was stirred for 10 minutes. 4-fluoropropiophenone was added to the reaction solution and the mixture was stirred at room temperature for 3 hours. 1N sodium hydroxide aqueous solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over with anhydrous sodium sulfate, then concentrated. Methanol was added to the residue, and the precipitated solid was collected by filtration to obtain the title compound (37.4 g).

reactant | (4-methoxyphenyl)methane thiol | 20 g | COC1=CC=C(C=C1)CS | C8H10OS
reactant | sodium hydride | [H-].[Na+]
reactant | 4-fluoropropiophenone | CCC(=O)C1=CC=C(C=C1)F | C9H9FO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-{4-[(4-methoxybenzyl)sulfanyl]phenyl}-1-propanone | 37.4 g | COC1=CC=C(CSC2=CC=C(C=C2)C(CC)=O)C=C1 | C17H18O2S
